* Z:\home\jkmunson\workspace\sp24\EENG_331_LAB2\part2_a_1.asc
VGS gate 0 {X}
VDS drain 0 10
M1 drain gate 0 0 NMOS
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\jkmunson\AppData\Local\LTspice\lib\cmp\standard.mos
.model nmos NMOS (kp=100u, vt0=0.5, l=0.18u, w=.36u)
.dc VDS 0 10 0.01
.step param X list 2 5 7 9 10
.backanno
.end
